US05952386
To a mixture of 0.96 g of 4-(3-aminopropyloxy)-3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)benzene, 0.53 g of 5-(trifluoromethyl)-2-pyridinecarboxylic acid, 0.37 g of triethylamine and 10 ml of chloroform was added 0.64 g of WSC hydrochloride, while stirring at room temperature. After stirring at room temperature for 6 hours, the reaction mixture was concentrated to give a residue. The residue was subjected to silica gel chromatography, which afforded 0.15 g of 3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)-4-(3-(5-(trifluoromethyl)picolinamido)propoxy)benzene (10% yield), m.p., 55.1° C.

reactant | 4-(3-aminopropyloxy)-3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)benzene | 0.96 g | NCCCOC1=C(C=C(C=C1Cl)OCC=C(Cl)Cl)Cl | C12H13Cl4NO2
reactant | 5-(trifluoromethyl)-2-pyridinecarboxylic acid | 0.53 g | FC(C=1C=CC(=NC1)C(=O)O)(F)F | C7H4F3NO2
reactant | triethylamine | 0.37 g | C(C)N(CC)CC | C6H15N
reactant | WSC hydrochloride | 0.64 g | CCN=C=NCCCN(C)C.Cl
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)-4-(3-(5-(trifluoromethyl)picolinamido)propoxy)benzene | 0.15 g, 10% yield | ClC=1C=C(C=C(C1OCCCNC(C1=NC=C(C=C1)C(F)(F)F)=O)Cl)OCC=C(Cl)Cl | C19H15Cl4F3N2O3
